US06350759B1
4-Ethoxy-3,5,6-trimethylaniline
0.46 mmol (0.426 g) of Pd2(dba)3 and 1.39 mmol (0.947 g) of BINAP are introduced into a 1-litre round-bottomed flask under an inert atmosphere. In a second round-bottomed flask. 46.5 mmol (13.5 g) of the compound described in the above Step, 65.1 mmol (6.26 g) of sodium tert-butanolate, 65.1 mmol (17.21 g) of 18 crown 6 and 65.8 mmol (10.12 g) of benzophenone imine are dissolved in 250 ml of anhydrous THF. The solution in the second round-bottomed flask is introduced into the round-bottomed flask containing the catalytic system with the aid of a cannula. The whole is heated at 60° C. for 3 hours and then the reaction mixture is diluted with ether. The precipitate formed is filtered over fritted glass and the filtrate is then evaporated. The residue obtained is redissolved in 300 ml of THF. 30 ml of hydrochloric acid solution (2N) are added thereto and the solution is stirred at ambient temperature for 1 hour. The whole is then diluted with excess hydrochloric acid (1N) and a heptane:ethyl acetate mixture 2:1. The aqueous phase is separated and then neutralised using 1M sodium hydroxide solution. After extracting with dichloromethane, drying the organic phase and evaporating off the solvent, the expected product is obtained.

reactant | BINAP | 1.39 mmol, 0.947 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butanolate | 65.1 mmol, 6.26 g | C(C)(C)(C)[O-].[Na+]
reactant | benzophenone imine | 65.8 mmol, 10.12 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | heptane | CCCCCCC | C7H16
reactant | THF | 250 ml | C1CCOC1 | C4H8O
reactant | THF | 300 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | hydrochloric acid | 1N | Cl | ClH
catalyst | Pd2(dba)3 | 0.46 mmol, 0.426 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Ethoxy-3,5,6-trimethylaniline | C(C)OC1=C(C=C(N)C(=C1C)C)C | C11H17NO
